US08981085B2
N-(5-Bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)picolinamide (194 mg, 0.579 mmol) and (R)-tert-butyl piperidin-3-ylcarbamate (0.348 g, 1.74 mmol) in n-BuOH (2 mL) was stirred at 149° C. for 24 hours in a sealed tube and concentrated in vacuo. The residue obtained was dissolved in ethyl acetate (20 mL) and successively washed with water (10 mL) and brine (10 mL). The organic layer was dried (MgSO4), filtered, and concentrated in vacuo. The residue obtained was purified by C-18 reverse phase column chromatography (Biotage Flash 25M+) on Biotage SP4 unit eluting with gradient of 10-90% CH3CN/water to provide (R)-tert-butyl 1-(5-bromo-3-(picolinamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate. This material was dissolved in DCM (3 mL), treated with TFA (0.5 mL) and stirred at room temperature for 1 hour. The mixture was then concentrated in vacuo. The resulting residue was dissolved in DCM (1 mL) and treated with 2N HCl in ether (3 mL). The solid formed was collected by filtration and dried to give (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)picolinamide hydrochloride (0.022 g, 0.0419 mmol, 7% yield) as a solid. 1H NMR (400 MHz, (CD3)2SO) δ 11.90 (br s, 1H), 11.35 (br s, 1H), 8.87 (d, 1H), 8.36 (br s, 3H), 8.31 (s, 1H), 8.21-8.11 (m, 3H), 7.74 (t, 1H), 4.04-3.94 (m, 1H), 3.76-3.67 (m, 1H), 3.58-3.48 (m, 1H), 3.43-3.34 (m, 1H), 3.08-3.00 (m, 1H), 2.44-2.37 (m, 1H), 2.27-2.14 (m, 1H), 1.90-1.81 (m, 1H), 1.63-1.51 (m, 1H); LCMS (APCI+) m/z 415.1, 417 (M+H)+.

reactant | N-(5-Bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)picolinamide | 0.579 mmol, 194 mg | BrC=1C(=C2C(=NC1)NC=C2NC(C2=NC=CC=C2)=O)F | C13H8BrFN4O
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 1.74 mmol, 0.348 g | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
solvent | n-BuOH | 2 mL | CCCCO | C4H10O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | (R)-tert-butyl 1-(5-bromo-3-(picolinamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | BrC=1C(=C2C(=NC1)NC=C2NC(C2=NC=CC=C2)=O)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C23H27BrN6O3
